US04416876
Ethyl-4-(4,4-dimethyl-4-sila-n-hexadecylamino)benzoate
Under nitrogen, 26.8 g of 4,4-dimethyl-4-sila-n-hexadecyl-p-toluenesulphonate, mixed with 35 g (in excess) of ethyl-p-aminobenzoate is heated at 123° to 128° for 4 hrs. The hot mixture is diluted with about 120 ml. of toluene and allowed to cool. The solution is then further diluted with dichloromethane. The resulting mixture is then washed with about 50 ml. of dilute aqueous sodium hydroxide, then washed with brine, and then dried over anh. sodium sulfate, filtered, and the filtrate concentrated by evaporating to obtain an oily residue. Heptane is added to the residue and upon standing two crops of solids (ethyl-p-aminobenzoate) are removed by filtering. The filtrate is concentrated to give an oily product which is placed on a chromatographic column, eluted with ethyl acetate/dichloromethane (5/95) to obtain several high quality fractions, which upon recrystallization from heptane, cooling to -20° gives refined title product, m.p. (39)--40°-41°. Additional crops of product are obtained from other fractions.

reactant | 4,4-dimethyl-4-sila-n-hexadecyl-p-toluenesulphonate | 26.8 g | C[Si](CCCC1=C(C=CC(=C1)S(=O)(=O)[O-])C)(CCCCCCCCCCCC)C
reactant | ethyl-p-aminobenzoate | 35 g | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | Heptane | CCCCCCC | C7H16
solvent | dichloromethane | ClCCl | CH2Cl2
product | Ethyl-4-(4,4-dimethyl-4-sila-n-hexadecylamino)benzoate | C(C)OC(C1=CC=C(C=C1)NCCC[Si](CCCCCCCCCCCC)(C)C)=O | C26H47NO2Si
